US09227951B2
To a solution of methyl 5-formyl-1H-pyrrole-3-carboxylate (60.0 g, 0.360 mol) in DMF (60 mL) was added potassium tert-butoxide (72.0 g, 0.576 mol). After stirring at rt for 30 min, the mixture was cooled to 0° C. and methyl iodide (132 mL, 1.45 mol) was added. The solution was then stirred at rt overnight. Water was added to quench the reaction and the solution was extracted with DCM (3×200 mL). The combined organic phases were washed with brine (50 mL), dried (Na2SO4), and concentrated to give methyl 5-formyl-1-methyl-1H-pyrrole-3-carboxylate (45.0 g, 80%). 1H NMR (CDCl3, 400 MHz) δ 12.62 (s, 1H), 9.48 (s, 1H), 7.66 (s, 1H), 7.30 (s, 1H), 3.67 (s, 3H).

reactant | methyl 5-formyl-1H-pyrrole-3-carboxylate | 0.360 mol, 60.0 g | C(=O)C1=CC(=CN1)C(=O)OC | C7H7NO3
reactant | potassium tert-butoxide | 0.576 mol, 72.0 g | CC(C)([O-])C.[K+]
reactant | methyl iodide | 1.45 mol, 132 mL | CI | CH3I
reactant | Water | O | H2O
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | methyl 5-formyl-1-methyl-1H-pyrrole-3-carboxylate | 45.0 g, 80% | C(=O)C1=CC(=CN1C)C(=O)OC | C8H9NO3
